US06608078B2
1-Benzyl-3-ethylpiperidin-4-one (2 g, 9.2 mmole) was added to the stirred suspension of potassium tert.-butoxide (1.5 g, 13.3 mmole) in tetrahydrofuran (25 ml) at 0° C. The reaction mixture was stirred for 15 min, methyl iodide (2 g, 14.1 mmole) was added over a period of 10 min at 0° C. and stirring continued for 1 hr. The resulting mixture was stirred for 16 hr at ambient temperature, water (25 ml) was added and extracted with ethyl acetate (100 ml). Ethyl acetate layer on concentrated furnished 1-benzyl-3-ethyl-3-methylpiperid-4-one as oil, which was used as such in the next step. Yield 1.5 g (71%), C15H2NO, m/z 232 (M+1).

reactant | 1-Benzyl-3-ethylpiperidin-4-one | 9.2 mmole, 2 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)CC | C14H19NO
reactant | potassium tert.-butoxide | 13.3 mmole, 1.5 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | 14.1 mmole, 2 g | CI | CH3I
reactant | water | 25 ml | O | H2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-benzyl-3-ethyl-3-methylpiperid-4-one | C(C1=CC=CC=C1)N1CC(C(CC1)=O)(C)CC | C15H21NO
